US03952012
A solution of 3.00 g. (0.0105 mole) of methyl 5-(p-anisoyl)-1-methylpyrrole-2-acetate in 12 ml. (0.012 mole) of 1N sodium hydroxide solution and 5 ml. of 95% ethanol is refluxed for 30 minutes. The solution is diluted with water and the ethanol is evaporated in vacuo. The solution is filtered and the filtrate acidified with dilute hydrochloric acid. The precipitated solid is collected by filtration, dried and recrystallized from methanol-water to give about 2.4 g. (87% yield) of white 5-(p-anisoyl)-1-methylpyrrole-2-acetic acid, m.p. 170°-171°C.

reactant | methyl 5-(p-anisoyl)-1-methylpyrrole-2-acetate | 0.0105 mole | C(C1=CC=C(C=C1)OC)(=O)C1=CC=C(N1C)CC(=O)OC | C16H17NO4
reactant | sodium hydroxide | 0.012 mole, 1N | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-(p-anisoyl)-1-methylpyrrole-2-acetic acid | 87% yield | C(C1=CC=C(C=C1)OC)(=O)C1=CC=C(N1C)CC(=O)O | C15H15NO4
